US06121201
2-(5-Amino-2-chloro-4-fluorophenoxy)pyrimidine (Intermediate IIp).
A mixture of 5-amino-2-chloro-4-fluorophenol (3.57 g), potassium carbonate (3.04 g), and 2-chloropyrimidine (3.20 g) suspended in butan-2-one (100 ml) and dimethylsulfoxide (10 ml) was heated at reflux overnight. The solution was processed and chromatographed on silica gel eluting with ethyl acetate:hexane, 1:2, to yield yellow crystals (4.0 g). 1H NMR (acetone-d6, TMS): 4.75(2H, br s), 6.78(1H, d, J=8.4 Hz), 7.09(1H, d, J=10.6 Hz), 7.15(1H, t, J=4.8 Hz), 8.56(2H, d, J=4.8 Hz).

reactant | 5-amino-2-chloro-4-fluorophenol | 3.57 g | NC=1C(=CC(=C(C1)O)Cl)F | C6H5ClFNO
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloropyrimidine | 3.20 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | butan-2-one | 100 ml | CC(CC)=O | C4H8O
product | 2-(5-Amino-2-chloro-4-fluorophenoxy)pyrimidine | 4.0 g | NC=1C(=CC(=C(OC2=NC=CC=N2)C1)Cl)F | C10H7ClFN3O
